US09212168B2
((S)-1-{(2S,4S)-2-[4-(4′-{[6-((R)-4-tert-Butyl-2-methyl-piperazin-1-yl)-pyridine-3-carbonyl]-amino}-5′-chloro-2′-trifluoromethoxy-biphenyl-4-yl)-1H-imidazol-2-yl]-4-methoxy-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester
To a solution of ((S)-1-{(2S,4S)-2-[4-(5′-chloro-4′-{[6-((R)-2-methyl-piperazin-1-yl)-pyridine-3-carbonyl]-amino}-2′-trifluoromethoxy-biphenyl-4-yl)-1H-imidazol-2-yl]-4-methoxy-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester tri-HCl (10 mg, 0.01 mmol; Preparation 28) in DMA (1 mL) was added N,N-diisopropylethylamine (9.44 μL, 0.05 mmol) followed by 2,2-dimethylpropanoyl chloride (1.31 mg, 0.01 mmol). The reaction mixture was stirred at RT overnight, concentrated by rotary evaporation, dissolved in 1:1 acetic acid:water (1.5 mL) and purified by reverse phase HPLC to provide the di-TFA salt of the title compound (7 mg, 51% yield) (m/z): [M+H]+ calcd for C44H52ClF3N8O7 897.36. found 897.8.

reactant | ((S)-1-{(2S,4S)-2-[4-(5′-chloro-4′-{[6-((R)-2-methyl-piperazin-1-yl)-pyridine-3-carbonyl]-amino}-2′-trifluoromethoxy-biphenyl-4-yl)-1H-imidazol-2-yl]-4-methoxy-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester tri-HCl | 0.01 mmol, 10 mg | Cl.Cl.Cl.COC(N[C@@H](C(C)C)C(=O)N1[C@@H](C[C@@H](C1)OC)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C(=C1)Cl)NC(=O)C=1C=NC(=CC1)N1[C@@H](CNCC1)C)OC(F)(F)F)=O
reactant | N,N-diisopropylethylamine | 0.05 mmol, 9.44 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,2-dimethylpropanoyl chloride | 0.01 mmol, 1.31 mg | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
product | ((S)-1-{(2S,4S)-2-[4-(4′-{[6-((R)-4-tert-Butyl-2-methyl-piperazin-1-yl)-pyridine-3-carbonyl]-amino}-5′-chloro-2′-trifluoromethoxy-biphenyl-4-yl)-1H-imidazol-2-yl]-4-methoxy-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 7 mg, 51% yield | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](C[C@@H](C1)OC)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C(=C1)Cl)NC(=O)C=1C=NC(=CC1)N1[C@@H](CN(CC1)C(C)(C)C)C)OC(F)(F)F)=O | C43H52ClF3N8O6
